US06011174
(2) Preparation of dimethyl 4-hydroxymethylphthalate
1.43 g of 1,2-dimethyl 1,2,4-benzenetricarboxylate was dissolved in 20 ml of tetrahydrofuran, and 20 ml of a 1M tetrahydrofuran solution of a borane-tetrahydrofuran complex, was added, followed by stirring at room temperature overnight. The reaction solution was extracted by an addition of ethyl ether and water, and the organic layer was post-treated in accordance with a usual method. Then, the product was purified by silica gel column chromatography (hexane/ethyl acetate=4/1→1/1) to obtain 1.31 g of the above identified compound as a colorless oily substance.

reactant | 1,2-dimethyl 1,2,4-benzenetricarboxylate | 1.43 g | C=1(C(=CC(=CC1)C(=O)[O-])C(=O)OC)C(=O)OC
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | dimethyl 4-hydroxymethylphthalate | OCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C11H12O5
